US05556861
8-(3-Diethylamino-1-azetidinyl)-3-ethoxy-carbonyl-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine was prepared under the conditions of Example 2, but starting with 2 g of 3-ethoxy-carbonyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine and 1.4 g of 3-(diethylamino)-azetidine dihydrochloride. After recrystallization of the crude product in 500 cm3 of methanol, 2.07 g of 8-(3-diethylamino-1-azetidinyl)-3-ethoxy-carbonyl-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine are obtained in the form of a yellow solid, melting point 260° C.

reactant | 3-ethoxy-carbonyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 2 g | C(C)OC1C(C=2C=C3C(=NC2N(C1=C=O)C)C=C(C(=C3)F)F)=O | C16H12F2N2O3
reactant | 3-(diethylamino)-azetidine dihydrochloride | 1.4 g | Cl.Cl.C(C)N(C1CNC1)CC
product | 8-(3-Diethylamino-1-azetidinyl)-3-ethoxy-carbonyl-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | C(C)N(C1CN(C1)C=1C(=CC=2C(=NC=3N(C(C(C(C3C2)=O)OCC)=C=O)C)C1)F)CC | C23H27FN4O3
